US07074809B2
3-Methoxy-5-[3-(1-pyridin-2-ylmethyl-piperidin-2-yl)-[1,2,4]oxadiazol-5-yl]-benzonitrile
To a solution of 2-[5-(3-cyano-5-methoxy-phenyl)-[1,2,4]oxadiazol-3-yl]-piperidine-1-carboxylic acid tert-butyl ester (162 mg, 0.42 mmol) in dichloromethane (4 mL) cooling in an ice-bath was added trifluoroacetic acid (2 mL). The ice-bath was removed after 30 min. and then left stirring for an additional hour. After the solvent was removed in vacuo, the residue was dissolved in ethyl acetate and then washed with saturated sodium bicarbonate, dried over anhydrous sodium sulfate, filtered and concentrated in vacuo 113 mg (94%) of the title compound as a white solid. 1H NMR (CDCl3), δ(ppm): 7.99 (s, 1H), 7.84 (d, 1H), 7.35 (s, 1H), 5.56 (bs, 1H), 4.06 (m 1H), 3.93 (s, 3H), 3.01 (m, 1H), 2.84 (m, 1H), 1.92 (m, 1H), 1.70 (m, 2H), 1.49 (m 1H).

reactant | 2-[5-(3-cyano-5-methoxy-phenyl)-[1,2,4]oxadiazol-3-yl]-piperidine-1-carboxylic acid tert-butyl ester | 0.42 mmol, 162 mg | C(C)(C)(C)OC(=O)N1C(CCCC1)C1=NOC(=N1)C1=CC(=CC(=C1)OC)C#N | C20H24N4O4
reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | 3-Methoxy-5-[3-(1-pyridin-2-ylmethyl-piperidin-2-yl)-[1,2,4]oxadiazol-5-yl]-benzonitrile | COC=1C=C(C#N)C=C(C1)C1=NC(=NO1)C1N(CCCC1)CC1=NC=CC=C1 | C21H21N5O2
